US06734203B2
Benzyl bromide (1.9 ml) was added to a solution of 1-isopropyl-2-methyl-4,9-dihydro-4,9-dioxo-1H-naphtho[2,3-d]imidazole (0.8 g) in acetonitrile (20 ml) and the mixture was stirred under reflux for 6 hours. After cooling, the resulting precipitate was collected by filtration and washed with ethyl acetate. The obtained solid was recrystallized from methanol to give 1-benzyl-3-isopropyl-2-methyl-4,9-dihydro-4,9-dioxo-1H-naphtho[2,3-d]imidazol-3-ium bromide (0.47 g) as a yellow powder.

reactant | Benzyl bromide | 1.9 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 1-isopropyl-2-methyl-4,9-dihydro-4,9-dioxo-1H-naphtho[2,3-d]imidazole | 0.8 g | C(C)(C)N1C(=NC2=C1C(C1=CC=CC=C1C2=O)=O)C | C15H14N2O2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 1-benzyl-3-isopropyl-2-methyl-4,9-dihydro-4,9-dioxo-1H-naphtho[2,3-d]imidazol-3-ium bromide | 0.47 g | [Br-].C(C1=CC=CC=C1)N1C(=[N+](C2=C1C(C1=CC=CC=C1C2=O)=O)C(C)C)C | InChI=1S/C22H21N2O2.BrH/c1-14(2)24-15(3)23(13-16-9-5-4-6-10-16)19-20(24)22(26)18-12-8-7-11-17(18)21(19)25;/h4-12,14H,13H2,1-3H3;1H/q+1;/p-1
